US07399759B2
tert-Butyl 6-[[[6-(8-methyl-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]carbonyl]amino]hexylcarbamate
6-(8-Methyl-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridinecarboxylic acid (1.5 g, 5.0 mmol) was dissolved in DMF (15 ml) and N-(tert-butoxycarbonyl)-1,6-diaminohexane (2.1 g, 10.0 mmol), WSC (3.0 g, 15.5 mmol) and HOBt (2.0 g, 14.9 mmol) were added thereto. The reaction mixture was stirred at 80° C. for 10 hrs and combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethyl acetate-hexane (4:1, v/v) were collected, concentrated and recrystallized from hexane-tetrahydrofuran to give the titled compound (1.1 g, 45%) as white crystals.

reactant | 6-(8-Methyl-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridinecarboxylic acid | 5.0 mmol, 1.5 g | CC1=CC=CC=2C(N=C(SC21)C2=CC=CC(=N2)C(=O)O)=O | C15H10N2O3S
reactant | N-(tert-butoxycarbonyl)-1,6-diaminohexane | 10.0 mmol, 2.1 g | C(C)(C)(C)OC(=O)NCCCCCCN | C11H24N2O2
reactant | WSC | 15.5 mmol, 3.0 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 14.9 mmol, 2.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 6-[[[6-(8-methyl-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]carbonyl]amino]hexylcarbamate | 1.1 g, 45% | CC1=CC=CC=2C(N=C(SC21)C2=CC=CC(=N2)C(=O)NCCCCCCNC(OC(C)(C)C)=O)=O | C26H32N4O4S
